US08048902B2
Following the procedure described in Example 36, Step 6, [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid 2-chloro-benzyl ester and [4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester were reacted to provide {4′-[4-(2-chloro-benzyloxycarbonylamino)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-acetic acid ethyl ester, which was hydrolyzed to the acid as described in Example 36, Step 7.

reactant | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid 2-chloro-benzyl ester | ClC1=C(COC(NC=2C(=NOC2C2=CC=C(C=C2)Br)C)=O)C=CC=C1 | C18H14BrClN2O3
reactant | [4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C16H23BO4
product | {4′-[4-(2-chloro-benzyloxycarbonylamino)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-acetic acid ethyl ester | C(C)OC(CC1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC(=O)OCC1=C(C=CC=C1)Cl)=O | C28H25ClN2O5
